US06353017B1
To a solution of O-[[3-(methoxycarbonyl)phenyl]methyl]-N-(t-butoxycarbonyl)-L-serinamide (2.4 g, 6.82 mmol) in EtOAc (50 mL) at 0° C. is bubbled HCl gas at a moderately vigorous rate for 5 minutes, during which time a lot of white precipitate is observed. The mixture is warmed to room temperature over 30 minutes, after which time EtOAc is removed, yielding O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide.HCl as a white solid.

reactant | O-[[3-(methoxycarbonyl)phenyl]methyl]-N-(t-butoxycarbonyl)-L-serinamide | 6.82 mmol, 2.4 g | COC(=O)C=1C=C(C=CC1)COC[C@H](N)C(=O)NC(=O)OC(C)(C)C | C17H24N2O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide | COC(=O)C=1C=C(C=CC1)COC[C@H](N)C(=O)N | C12H16N2O4
